US06337351B1
(4E)-N-Methyl-5-(3-acetamido-4-methylphenyl)-4-penten-2-amine
A solution of (4E)-N-methyl-N-(tert-butoxycarbonyl)-5-(3-acetamido-4-methylphenyl)-4-penten-2-amine (0.90 g, 2.60 mmol) and aqueous hydrobromic acid (50%, 25 mL) was stirred at 0° C. to ambient temperature for ˜16 h. The reaction mixture was extracted with chloroform (40 mL). The aqueous layer was cooled to 0° C., basified with aqueous sodium hydroxide solution to pH 8-9, and extracted with chloroform (4×50 mL). The combined extracts were dried over sodium sulfate, filtered and concentrated on a rotary evaporator to yield 0.639 g (94.6%) of a colorless oil.

reactant | (4E)-N-methyl-N-(tert-butoxycarbonyl)-5-(3-acetamido-4-methylphenyl)-4-penten-2-amine | 2.60 mmol, 0.90 g | CN(C(C)C\C=C\C1=CC(=C(C=C1)C)NC(C)=O)C(=O)OC(C)(C)C | C20H30N2O3
reactant | hydrobromic acid | 25 mL | Br | BrH
product | (4E)-N-Methyl-5-(3-acetamido-4-methylphenyl)-4-penten-2-amine | 0.639 g, 94.6% | CNC(C)C\C=C\C1=CC(=C(C=C1)C)NC(C)=O | C15H22N2O
